US05439925
11.70 ml (84 mmol) of triethylamine in 10 ml of tetrahydrofuran and 8.70 ml (91 mmol) of ethyl chloroformate in 10 ml of tetrahydrofuran are successively added dropwise to a solution of 20.6 g (70 mmol) of 3-(1-adamantyl)-4-methoxybenzoic acid in 200 ml of tetrahydrofuran at 0° C. The reaction medium is stirred for 40 minutes at 0° C., 6.83 g (105 mmol) of sodiumazide, dissolved in 30 ml of water, are then added to this medium and the mixture is left stirring at 0° C. for 2 hours. The reaction medium is poured into ice-cold water, the mixture is extracted with dichloromethane and the organic phase is washed with water, dried over magnesium sulphate and evaporated. The residue is dissolved in 400 ml of dichloromethane, 7.3 ml (0.094 mol) of trifluoroacetic acid are added and the mixture is heated to reflux for 30 hours. The reaction medium is poured into saturated sodium bicarbonate solution and the organic phase is dried over magnesium sulphate and evaporated. The residue is chromatographed on silica with a dichloromethane/hexane (30:70) mixture to yield 14.1 g (57%) of 3-(1-adamantyl)-4-methoxy-N-(trifluoroacetyl)aniline, melting point 166°-167° C.

reactant | triethylamine | 84 mmol, 11.70 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 91 mmol, 8.70 ml | ClC(=O)OCC | C3H5ClO2
reactant | 3-(1-adamantyl)-4-methoxybenzoic acid | 70 mmol, 20.6 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)O)C=CC2OC | C18H22O3
reactant | sodiumazide | 105 mmol, 6.83 g | [N-]=[N+]=[N-].[Na+]
reactant | trifluoroacetic acid | 0.094 mol, 7.3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 3-(1-adamantyl)-4-methoxy-N-(trifluoroacetyl)aniline | 14.1 g, 57% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(NC(C(F)(F)F)=O)C=CC2OC | C19H22F3NO2
